US03932411
55.4 ml (0.4 mol) triethylamine were added to a solution of 35.2 g (0.2 mol) 1-(4-methylphenyl)-piperazine and 31.5 g (0.2 mol) 1-chloro-3-bromopropane in 41 ml anhydrous tetrahydrofuran and the reaction mixture then stirred for six hours at 60°-65°C. Thereafter, the crystals which had precipitated out were filtered off with suction and the filtrate was evaporated in a vacuum. There was obtained a quantitative yield of crude 1-(3-chloropropyl)-4-(4-methylphenyl)-piperazine which was purified by rapid distillation at an efficient oil pump vacuum. The yield was 41.23 g (80% of theory); b.p. 147°-150°C/0.05 mm HG; m.p. 34°-36°C.

reactant | triethylamine | 0.4 mol, 55.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(4-methylphenyl)-piperazine | 0.2 mol, 35.2 g | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
reactant | 1-chloro-3-bromopropane | 0.2 mol, 31.5 g | ClCCCBr | C3H6BrCl
solvent | tetrahydrofuran | 41 ml | O1CCCC1 | C4H8O
product | 1-(3-chloropropyl)-4-(4-methylphenyl)-piperazine | quantitative yield | ClCCCN1CCN(CC1)C1=CC=C(C=C1)C | C14H21ClN2
